US05556977
Methyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]-2,2-dimethylacetyl]phenoxyacetate
Methyl 4-(2,2-dimethylbromoacetyl)phenoxyacetate (1.58 g) was added to a stirred solution of 1-(4-pyridyl)piperazine (1.63 g) in acetonitrile (40 ml). After 34 days, the solid formed was removed by filtration and the filtrate evaporated to give an oil. Purification by flash chromatography on silica, eluting with 0.5 to 4.0% v/v methanol/dichloromethane gave the title compound, 240 mg, as a white foam:

reactant | Methyl 4-(2,2-dimethylbromoacetyl)phenoxyacetate | 1.58 g | CC(C(=O)C1=CC=C(OCC(=O)OC)C=C1)(C)Br | C13H15BrO4
reactant | 1-(4-pyridyl)piperazine | 1.63 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | Methyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]-2,2-dimethylacetyl]phenoxyacetate | N1=CC=C(C=C1)N1CCN(CC1)C(C(=O)C1=CC=C(OCC(=O)OC)C=C1)(C)C | C22H27N3O4
